US07347984B2
Agmatine sulfate, aminoguanidine, arcaine sulfate, and 7-nitroindazole were purchased from Sigma Chemical Co. (St. Louis, Mo.). Other agmatine analogues were obtained from a variety of sources. A racemic mixture of alpha-vinylargine was synthesized according to the method of Pederson et al. (1993). Compounds CS51, R74, TRV187, TRV162, G3, and RO5 (see FIG. 1) were obtained from and produced using the methods of Carmignani et al. (2001). The synthesis of 3-aminopropylguanidine and trans-4-aminocyclohexylguanidine were synthesized by adding an aqueous solution of cyanamide drop-wise to a boiling solution of 1,3-diaminopropane or trans-1,4-diaminocyclohexane in a concentrated hydrochloric solution. The mixture was refluxed for 1 hour and then an aqueous solution of NaOH was added. The white precipitate was isolated and an 1H NMR spectrum was obtained to confirm the structures. The synthesis of Bis(3-(N-aminomethyl)-aminopropyl)amine is the same as described for 3-aminopropylguanidine and trans-4-aminocyclohexylguanidine except that it uses N-(3-aminopropyl)-1,3-propyldiamine instead of 1,3-diaminopropane or trans-1,4-diaminocyclohexane.

reactant | Agmatine sulfate | S(=O)(=O)(O)O.NC(NCCCCN)=N
reactant | aminoguanidine | C(=NN)(N)N | CH6N4
reactant | arcaine sulfate | C(CCNC(=N)N)CNC(=N)N.OS(=O)(=O)O
reactant | 7-nitroindazole | [N+](=O)([O-])C=1C=CC=C2C=NNC12 | C7H5N3O2
product | agmatine | NC(NCCCCN)=N | C5H14N4
